US07625910B2
2-(3-{[7-(3-Chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)-N-(3-fluorophenyl)acetamide and 2-(ethylamino)ethanol (12 molar equivalents) were added to N,N-dimethylacetamide under an inert atmosphere (such as provided by nitrogen) and the mixture heated to 90° C. with stirring. After 12 hours, water was added in a controlled manner and the batch seeded with product whilst hot. The mixture was cooled to 20° C. in a carefully controlled manner to crystallise the product in the required form. The product was then filtered and washed with a mixture of water/N,N-dimethylacetamide and acetonitrile. Following this, the cake was slurried for a period with warm acetonitrile (40° C.), filtered, washed with more acetonitrile and then dried (in vacuo or under a stream of nitrogen) to afford the anhydrous 2-{3-[(7-{3-[ethyl(2-hydroxyethyl)amino]propoxy}-quinazolin-4-yl)amino]-1H-pyrazol-5-yl}-N-(3-fluorophenyl)acetamide as an off-white solid in a yield of ˜90%.

reactant | 2-(3-{[7-(3-Chloropropoxy)quinazolin-4-yl]amino}-1H-pyrazol-5-yl)-N-(3-fluorophenyl)acetamide | ClCCCOC1=CC=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)NC1=CC(=CC=C1)F | C22H20ClFN6O2
reactant | 2-(ethylamino)ethanol | 12 molar | C(C)NCCO | C4H11NO
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 2-{3-[(7-{3-[ethyl(2-hydroxyethyl)amino]propoxy}-quinazolin-4-yl)amino]-1H-pyrazol-5-yl}-N-(3-fluorophenyl)acetamide | yield of ˜90% | C(C)N(CCCOC1=CC=C2C(=NC=NC2=C1)NC1=NNC(=C1)CC(=O)NC1=CC(=CC=C1)F)CCO | C26H30FN7O3
